US05420126
In 69 ml of methanol was dissolved 2.29 g of 3,4-dihydro-2,2-dimethyl-6-nitro-4-nitroso-2H-1,4-benzoxazine and the solution was cooled on an ice bath. After addition of a solution of 1.16 g of sodium hydroxide in 8.1 ml of water to the above solution, 3.13 g of formamidinosulfinic acid was gradually added. The mixture was stirred at room temperature overnight and, then, concentrated. The concentrate was subjected to column chromatography (eluent: hexane;ethyl acetate=9:1) to give 0.4 g of 4-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine.

reactant | 3,4-dihydro-2,2-dimethyl-6-nitro-4-nitroso-2H-1,4-benzoxazine | 2.29 g | CC1(OC2=C(N(C1)N=O)C=C(C=C2)[N+](=O)[O-])C | C10H11N3O4
reactant | sodium hydroxide | 1.16 g | [OH-].[Na+]
solvent | methanol | 69 ml | CO | CH4O
solvent | water | 8.1 ml | O | H2O
product | 4-amino-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine | 0.4 g | NN1CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C10H13N3O3
